US05952368
3-Fluoro-4-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]aniline (5.0 g, 14.0 mmol), sodium acetate (1.15 g, 14 mmol) and 10% Pd/C (475 mg) were suspended in ethanol (230 ml). The reaction mixture was shaken in a Parr apparatus under hydrogen atmosphere at 30 psi overnight. The mixture was filtered through Celite® and the filtrate was evaporated to dryness. The crude product was purified on a silica gel column (methylene chloride-methanol, 99:1) and then crystallized from ethyl acetate/hexane/cyclohexane to give 3-fluoro-4-[5-benzoyl-1,4-dimethyl-1H-pyrrol-2-yl-methyl]aniline (2.49 g, 55%) as a solid.

reactant | 3-Fluoro-4-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]aniline | 14.0 mmol, 5.0 g | FC=1C=C(N)C=CC1CC=1N(C(=C(C1)C)C(C1=CC=C(C=C1)Cl)=O)C | C20H18ClFN2O
reactant | sodium acetate | 14 mmol, 1.15 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 230 ml | C(C)O | C2H6O
catalyst | Pd/C | 475 mg | [Pd] | Pd
product | 3-fluoro-4-[5-benzoyl-1,4-dimethyl-1H-pyrrol-2-yl-methyl]aniline | 2.49 g, 55% | FC=1C=C(N)C=CC1CC=1N(C(=C(C1)C)C(C1=CC=CC=C1)=O)C | C20H19FN2O
